US07202376B2
0.723 g of sodium hydrate (97%) was dissolved in 80 ml of distilled water, and then it was divided into two Teflon reaction containers in halves for each. In one container it was dissolved by adding 8.258 g of sodium aluminate, and in the other container it was dissolved by adding 15.48 g of sodium meta-silicate. Subsequently, gel was formed as a result of adding the silicate solution to the aluminate solution quickly. It was stirred until gel became completely dissolved and then heated at 100° C. for 4 days to obtain zeolite A having Si/Al ratio 1.020 containing impurities. The obtained catalyst was cleaned several times with distilled water and then dried inside an oven at 100° C., and then had a reflux using aqueous solution having 0.1M of ammonium nitrate per 1 g of the catalyst to remove Na ion, which was contained in the catalyst. After this process, the catalyst was cleaned several times with distilled water and dried inside an oven, and then calcined more for 4 hours in the air at 500° C. to obtain pure zeolite A having Si/Al ratio 1.020.

reactant | sodium hydrate | 0.723 g | O.[Na]
reactant | sodium aluminate | 8.258 g | O=[Al-]=O.[Na+]
reactant | sodium meta-silicate | 15.48 g | [O-][Si](=O)[O-].[Na+].[Na+]
solvent | water | 80 ml | O | H2O
product | zeolite A | O.[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Na+].[Na+].[Al+3].[Al+3].[Si+4] | InChI=1S/2Al.2Na.H2O.6O.Si/h;;;;1H2;;;;;;;/q2*+3;2*+1;;6*-2;+4
